US08258160B2
To a stirred solution of 3-methylthiophene-2-carboxylic acid (5.00 g, 35.17 mmol) in ethanol (50 mL) was added thionyl chloride (2.60 mL, 35.62 mmol). The resulting reaction mixture was stirred at reflux for 16 h, and allowed to cool to ambient temperature and concentrated in vacuo. The residue was dissolved in ethyl acetate (200 mL) and washed with saturated aqueous sodium bicarbonate solution (3×100 mL) and brine (100 mL). The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to afford ethyl 3-methylthiophene-2-carboxylate as light yellow liquid (5.96 g, 99%): 1H NMR (300 MHz, CDCl3) δ 7.37 (d, J=5.0 Hz, 1H), 6.91 (d, J=5.0 Hz, 1H), 4.33 (q, J=7.1 Hz, 2H), 2.55 (s, 3H), 1.37 (t, J=7.1 Hz, 3H).

reactant | 3-methylthiophene-2-carboxylic acid | 35.17 mmol, 5.00 g | CC1=C(SC=C1)C(=O)O | C6H6O2S
reactant | thionyl chloride | 35.62 mmol, 2.60 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | ethyl 3-methylthiophene-2-carboxylate | 5.96 g, 99% | CC1=C(SC=C1)C(=O)OCC | C8H10O2S
